US09375000B2
[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methanol (1.55 g) and triethylamine (0.4 g) were added to acetonitrile (30 ml), and an acetonitrile solution (10 ml) of methanesulfonyl chloride (0.4 g) was added dropwise thereto under ice cooling. Upon the completion of the dropwise addition, the reaction liquid was stirred at room temperature for 1 hour, and then the resulting solution was added dropwise to a mixture solution containing 28% ammonia water (30 ml) and acetonitrile (50 ml), which had been prepared separately, under ice cooling. After stirring at room temperature for 12 hours, the reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, the solvent was distilled off under reduced pressure and the purified by silica gel chromatography to obtain 1-[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methanamine (1.0 g).

reactant | [6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methanol | 1.55 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC=C(C(=N1)C(F)(F)F)CO)C(F)(F)F)(F)F | C20H14F12N2O
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonia water | 30 ml | O.N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methanamine | 1.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC=C(C(=N1)C(F)(F)F)CN)C(F)(F)F)(F)F | C20H15F12N3
